Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Massive hemoptysis
 
Major Surgical or Invasive Procedure:
Bilateral bronchial artery embolization ___

 
History of Present Illness:
___ year old ___ speaking woman with a history of 
bronchiectasis and multiple admission ___ ___ for hemoptysis 
and respiratory infections who presents with hemoptysis. History 
taken with help of daughter who translated.  
Patient recently moved to ___ from ___.  Before her move 
she reports that over the past ___ years, she has had several 
episodes of pneumonia per year. ___ the past year, she had a 
prolonged hospitalization about 6 months ago for hemoptysis and 
a bronchial infection. Reports that during this episode, she 
underwent CT scanning and bronchoscopy. Cultures revealed a 
bacterial infection, but studies were negative for tuberculosis. 
She also reports she had a biopsy done at that time. She was 
treated with antibiotics. She was told that she has both 
"bronchial and lung disease."  
 She reports that she has persistent cough that is occasionally 
productive of greenish sputum. She recently established care 
with Dr. ___ symptoms of DOE, weakness, and cough. She 
underwent a CT scan which showed multiple tree ___ ___ and 
nodular opacities c/f mycobacterium. Plan was to get outpatient 
PFTs and follow up with pulm. Of note, patient reports that she 
has been tested for TB ___ the past ___ times") and has 
always been negative. These tests include bronchoscopy.  
 On day of presentation patient was at her baseline when she 
suddenly had an episode of hemoptysis. Per daughter, patient 
filled half a sink with blood. It resolved after this initial 
episode. For this she presented to ___ ED.  
 Patient endorsed chills at night. Denies fevers or sweats. No 
sick contacts. Denies any orthopnea, PND or leg swelling. Denies 
weight loss.  
 
Past Medical History:
 Bronchiectasis  
 hypertension  
 migraine  
 headaches  
 tachycardia  
 herniated disc
 
Social History:
___
Family History:
 Mother ___ ___  
 Father ___ ___ CHEST PAIN ? myocardial  
 infarction  
 
Physical Exam:
ON ADMISSION:
 Vital Signs: 98.3 136/91 75 18 98 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Left sided coarse crackles from base to mid back. No 
egophany. No wheezes. Otherwise CTA  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

ON DISCHARGE
Physical Exam:  
Vitals- 99.2 ___ 18 98% RA
General- middle age woman, appears younger than age, laying 
comfortably ___ NAD
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- Good air entry. Mild coarse crackles at left base. 
Otherwise CTA b/l. No wheezes 
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops. No elevated JVP
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly. R Femoral 
site dressing c/d/I, no bruits/thrills/hematoma
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 grossly intact, ___ strength ___ UE and ___ b/l. 
 
Pertinent Results:
ON ADMISSION
___ 11:50PM   WBC-6.0 RBC-3.99 HGB-11.3 HCT-34.7 MCV-87 
MCH-28.3 MCHC-32.6 RDW-13.6 RDWSD-42.9
___ 11:50PM   PLT COUNT-204
___ 03:20PM   GLUCOSE-103* UREA N-10 CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-28 ANION GAP-11
___ 03:20PM   WBC-5.5 RBC-4.00 HGB-11.5 HCT-35.8 MCV-90 
MCH-28.8 MCHC-32.1 RDW-13.5 RDWSD-43.9
___ 03:20PM   NEUTS-56.2 ___ MONOS-6.0 EOS-1.1 
BASOS-0.7 IM ___ AbsNeut-3.07# AbsLymp-1.96 AbsMono-0.33 
AbsEos-0.06 AbsBaso-0.04
___ 03:20PM   PLT COUNT-234
___ 03:12PM   ___ PTT-33.5 ___

NOTABLE LABS
___ 11:50PM BLOOD WBC-6.0 RBC-3.99 Hgb-11.3 Hct-34.7 MCV-87 
MCH-28.3 MCHC-32.6 RDW-13.6 RDWSD-42.9 Plt ___
___ 09:55PM BLOOD WBC-7.7 RBC-4.23 Hgb-11.8 Hct-36.6 MCV-87 
MCH-27.9 MCHC-32.2 RDW-13.7 RDWSD-42.8 Plt ___
___ 08:15AM BLOOD WBC-7.2 RBC-3.86* Hgb-11.0* Hct-34.2 
MCV-89 MCH-28.5 MCHC-32.2 RDW-13.9 RDWSD-44.8 Plt ___
___ 08:10AM BLOOD WBC-7.3 RBC-3.93 Hgb-10.8* Hct-34.6 
MCV-88 MCH-27.5 MCHC-31.2* RDW-13.8 RDWSD-44.3 Plt ___
___ 08:25AM BLOOD WBC-6.5 RBC-4.06 Hgb-11.2 Hct-36.2 MCV-89 
MCH-27.6 MCHC-30.9* RDW-13.7 RDWSD-44.3 Plt ___

___ 08:15AM BLOOD RheuFac-<10
___ 08:15AM BLOOD IgG-1142 IgA-327 IgM-208
___ 08:15AM BLOOD HIV Ab-Negative

ON DISCHARGE:

MICROBIOLOGY

___ 11:55 pm SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      HEAVY GROWTH Commensal Respiratory Flora. 
      ACINETOBACTER BAUMANNII COMPLEX.    RARE GROWTH. 
         WORK-UP REQUESTED BY ___ ___. 
         "Note, for Amp/sulbactam, higher-than-standard dosing 
needs to be
         used, since therapeutic efficacy relies on intrinsic 
activity of
         the sulbactam component". 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             ACINETOBACTER BAUMANNII COMPLEX
                             |   
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
LEVOFLOXACIN----------<=0.12 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   FUNGAL CULTURE (Preliminary): 
      YEAST. 

   ACID FAST SMEAR (Final ___: 
      Reported to and read back by ___ ___ ___ 
8:35AM. 
      Reported to and read back by ___ ___ @ 8:25 
AM. 
      ACIDFAST BACILLI.    FEW seen on concentrated smear. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


   MTB Direct Amplification (Final ___: 
      M. TUBERCULOSIS DNA NOT DETECTED BY NAAT: Infection is 
most likely
      caused by  mycobacteria other than M. tuberculosis. 
      . 
      NAAT results will be followed by confirmatory testing with
      conventional culture and DST methods. This TB NAAT method 
has not
      been approved by FDA for clinical diagnostic purposes. 
However, ___
      Laboratory Institute (___) has established assay 
performance by
      ___ validation ___ accordance with CLIA standards. 
      . 
      Test done at ___ Mycobacteriology 
Laboratory.

   MTB Direct Amplification (Final ___: 
      M. TUBERCULOSIS DNA NOT DETECTED BY NAAT: Infection is 
most likely
      caused by  mycobacteria other than M. tuberculosis. 
      . 
      NAAT results will be followed by confirmatory testing with
      conventional culture and DST methods. This TB NAAT method 
has not
      been approved by FDA for clinical diagnostic purposes. 
However, ___
      Laboratory ___ (___) has established assay 
performance by
      ___ validation ___ accordance with CLIA standards. 
      . 
      Test done at ___ Mycobacteriology 
Laboratory..

IMAGING:
CTA CHEST (___): 1.  No evidence of pulmonary embolism or 
aortic abnormality.
2. Extensive bilateral ___ opacities, micro- and macro- 
nodules,
bronchial wall thickening and consolidations concerning for an 
infectious
process, again concerning for mycobacterium. This has progressed 
since last
weeks exam suggesting active disease.
3. Mosaic attenuation of the lung parenchyma likely reflective 
of small
airways airways disease.

BRONCHIAL EMBOLIZATION (___): 
FINDINGS: 
 1. Main bronchial artery with bifurcation into left and right 
bronchial
arteries. Successful embolization to stasis with 300-500 micron 
particles.
2. No evidence of artery of ___.
 IMPRESSION: 
 Successful right common femoral artery access right and left 
bronchial artery
embolization to stasis.

 
Brief Hospital Course:
___ yo ___ speaking woman who PMH of bronchiectasis presents 
with massive hemoptysis secondary to bronchiectasis. ___ 
performed bilateral bronchial artery embolization with 
resolution of patient's hemoptysis. CT findings revealed tree ___ 
___ findings suggestive of an infectious process. Patient was 
placed under airborne precautions, had positive AFBx3, which was 
sent to state lab for MTB direct amplification, which was 
negativex2 ruling out tuberculosis. Patient was stable for 
discharge with acapella teaching and followup appointments.

#Bronchiectasis: 
Suspect that patient's bronchiectasis is cause for her 
hemoptysis.  ___ 
performed bilateral bronchial artery embolization on ___ with 

no further episodes of hemoptysis during the hospitalization. 
Hemoglobin stable. Patient received PPSV23 and given cough 
suppressants and acapella teaching prior to discharge. Workup 
for bronchiectasis was started and will be followed up by 
pulmonology. 

#Mycobacteria
CT findings revealed tree ___ ___ findings, bronchiectasis, 
micro/macro nodules concerning for mycobacterium infection. 
Suspected that patient had nontuberculosis mycobacterium since 
patient’s clinical presentation was not consistent with active 
TB.  Patient was 
placed under airborne precautions, had positive AFBx3, which was 

sent to state lab for MTB direct amplification, which was 
negative ruling out tuberculosis. Patient was discharged with 
follow up with pulmonology for treatment of NTM. Patient at high 
risk for resistance given she has been treated many times with 
antibiotics. 

#History of tachycardia: 
Patient was not tachycardic or complained of any palpitations 
during hospitalization. Was continued home propranolol  

#Hypertension
Was stable during hospitalization on home ramipril. On day of 
discharge, blood pressure was intermittently elevated with SBP 
___ 170's, but went back down after receiving morning dose of 
ramipril. 

# Thyroid nodules: 
Incidental finding of multinodular thyroid on CT scan. Recommend 
thyroid ultrasound outpatient

TRANSITIONAL ISSUES
===========================
[]repeat CBC at PCP follow up
[]f/u use of acapella
[]pt will need treatment for non-tuberculosis mycobacterium
[]thyroid nodules seen on CT scan. Consider thyroid ultrasound
[] follow up pending studies for bronchiectasis workup
[] follow up blood pressure, intermittently elevated on day of 
discharge without symptoms

 # CODE: Full 
 # CONTACT: Patient, Daughter 
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Ramipril 5 mg PO DAILY 
2. Propranolol 40 mg PO DAILY 

 
Discharge Medications:
1. Propranolol 40 mg PO DAILY 
2. Ramipril 5 mg PO DAILY 
3. Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0
4. acapella
Acapella device
Diagnosis: Bronchiectasis ICD: ___.1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Bronchiectasis
Non-tuberculosis mycobacterium infection

SECONDARY:
Hypertension
History of tachycardia
Thyroid nodules

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. You were admitted because 
you were coughing up a lot of blood likely due to your 
bronchiectasis. Interventional radiology stabilized the bleeding 
arteries ___ your lung. Your blood count was stable and you had 
no further episodes of blood ___ your sputum. You were also put 
on tuberculosis precautions because your sputum was positive for 
acid-fast bacilli, which is a type of bacteria. We sent your 
sputum to test for tuberculosis and it was negative, so you were 
discharged with follow up appointments with your primary care 
doctor and the pulmonologist. Please continue to use the 
acapella valve as directed. Any coughing of blood, please come 
immediately to the emergency department or call ___.

We wish you the best,
Your ___ team
 
Followup Instructions:
___